US08735384B2
2-Bromo-3-methylbenzoic acid (5.0 g, 23.3 mmol) was dissolved in THF (100 mL) and added N,N′-carbonyldiimidazole (4.52 g, 27.9 mmol). The reaction mixture was stirred at ambient temperature for 14 h. Pyrrolidine (6.8 mL, 81 mmol) was added in one portion. The mixture was stirred for 8 h and then partitioned between EtOAc and water. The organic layer was washed with water, diluted HCl, saturated bicarbonate, water and brine. The solution was then concentrated in vacuo to afford (2-bromo-3-methylphenyl)(pyrrolidin-1-yl)methanone as a white crystalline solid, upon standing overnight at RT.

reactant | 2-Bromo-3-methylbenzoic acid | 23.3 mmol, 5.0 g | BrC1=C(C(=O)O)C=CC=C1C | C8H7BrO2
reactant | Pyrrolidine | 81 mmol, 6.8 mL | N1CCCC1 | C4H9N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (2-bromo-3-methylphenyl)(pyrrolidin-1-yl)methanone | BrC1=C(C=CC=C1C)C(=O)N1CCCC1 | C12H14BrNO
